US04116951
Boc-Glu(OBzl)-Val-Val-OH.CHA.
Boc-Val-Val-OH (40.5 g, 128 mmol) was treated with 1.8 l of 4N HCl in THF for 60 minutes. Evaporation to remove excess acid and solvent followed by treatment with ether provided 34.5 g of HCl.H-Val-Val-OH as a white amorphous powder. It was treated with Boc-Glu(OBzl)-OSu (55.6 g, 128 mmol) in 1 liter DMF for 24 hours in the presence of 54 ml Et3N. The reaction mixture was filtered to remove some insoluble material and the filtrate evaporated to dryness. The remaining oily residue was taken up in EtOAc (1.5 l) and washed with 5% HOAc (2×) followed by water (3×). The organic layer was dried (Na2SO4) and evaporated to dryness to give a colorless clear oil which did not crystallize. It was thus dissolved in 3.2 l of ether and treated with cyclohexylamine (CHA) (17 ml) until the pH (moist pH paper) of the mixture was 7.5. The solid salt obtained was collected and recrystallized from MeOH and ether: Yield, 58.9 g (72.7%); mp 158°-;60°; [α]D25 = -33.41° (c 1, MeOH).

reactant | H-Val-Val-OH | N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)O | C10H20N2O3
reactant | Boc-Glu(OBzl)-OSu | 128 mmol, 55.6 g | N([C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C21H26N2O8
reactant | Et3N | 54 ml | CCN(CC)CC | C6H15N
reactant | MeOH | CO | CH4O
solvent | DMF | 1 liter | CN(C)C=O | C3H7NO
product | Boc-Glu(OBzl)-Val-Val-OH | N([C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C27H41N3O8
